US05556854
9.4 g of 3-benzyl-5,6,7,8-tetrahydro-1H-pyrido[4,3-d]-pyrimidine-2,4-dione were suspended in 250 ml of water, the equivalent amount of 1 N HCl was added and the solution formed was filtered and concentrated under vacuum. 9.9 g of 3-benzyl-5,6,7,8-tetrahydro-1H-pyrido[4,3-d]pyrimidine-2,4-dione hydrochloride were obtained from the residue after purification by recrystallization from isopropanol.

reactant | 3-benzyl-5,6,7,8-tetrahydro-1H-pyrido[4,3-d]-pyrimidine-2,4-dione | 9.4 g | C(C1=CC=CC=C1)N1C(NC2=C(C1=O)CNCC2)=O | C14H15N3O2
reactant | HCl | 1 N | Cl | ClH
solvent | water | 250 ml | O | H2O
product | 3-benzyl-5,6,7,8-tetrahydro-1H-pyrido[4,3-d]pyrimidine-2,4-dione hydrochloride | 9.9 g | Cl.C(C1=CC=CC=C1)N1C(NC2=C(C1=O)CNCC2)=O | InChI=1S/C14H15N3O2.ClH/c18-13-11-8-15-7-6-12(11)16-14(19)17(13)9-10-4-2-1-3-5-10;/h1-5,15H,6-9H2,(H,16,19);1H
